Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Planned ERCP
 
Major Surgical or Invasive Procedure:
ERCP

 
History of Present Illness:
Ms. ___ is a ___ female with the history of
hemorrhagic CVA (___) s/p frontal craniotomy with residual
left-sided paralysis and dysphagia on Eliquis (held since 
___
discharge), HTN, DMII, CKD presenting for ERCP for stent 
removal.

She recently presented to ___ in ___ with acute 
cholangitis and gallstone pancreatitis. She underwent ERCP at
___ with sphincterotomy and biliary stenting (___). She was 
discharged on Augmentin with plans for elective cholecystectomy 
in ___ weeks. 

At the end of ___, she re-presented to ___ with worsening
epigastric pain and was found to have acute cholecystitis. She
was intubated for airway protection and transferred to ___. At
___ she underwent percutaneous cholecystostomy with ___ and was
treated with 14 days of antibiotics for multi-drug resistant
Klebsiella. The ___ team was consulted for consideration of
repeat ERCP, but it was determined to perform it as an 
outpatient
after the patient's clinical status improves. 

Regarding her intubation (at ___ ___, it was challenging to
extubate her at ___, and she was extubated and then
re-intubated, thought to be due to upper airway narrowing and
edema. Tracheostomy tube was placed on ___ and then she was
weaned to trach mask. This hospitalization was also complicated
by septic shock requiring pressor support, ___ on CKD and
diarrhea. ___ was held since discharge given increased
bleeding risk; also the indication for apixaban felt to be
unclear.

ERCP today:
"stent pull, cholangiogram, sphincterotomy, removal of sludge,
mild ooze s/p epi with hemostasis"

On my exam, the patient is sleeping, arousable but doesn't
respond to my questions. Her husband ___ at bedside says that
she has denied any pain or discomfort. She had asked him about
food and he told her she could eat tomorrow. 

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 

 
Past Medical History:
- hemorrhagic CVA (___) c/b left-sided paralysis and dysphagia
- HTN
- CKD III (baseline Cr 1.8)
- T2DM
-ongoing use of
apixaban 2.5 mg BID for ONLY the purpose of DVT prophylaxis at
home
 
Social History:
___
Family History:
Not pertinent to presenting problem.
 
Physical Exam:
98.0
PO 151 / 89 78 18 99 35%TM 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, eyes open
ENT: Ears and nose without visible erythema, masses, or trauma.  

CV: Heart regular, no murmur
RESP: Lungs diminished throughout
GI: Abdomen soft, non-distended, non-tender to palpation. Perc
chole tube and drain is in place (clear yellowish fluid in bag),
with PEG c/d/i.
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple. 
NEUROLOGIC:
MENTATION: awake, but not alert, and not cooperative. RUE with
full range of motion spontaneously. 

 
Pertinent Results:
COMPLETE BLOOD COUNT WBC RBC Hgb Hct MCV MCH MCHC RDW RDWSD Plt 
Ct 
___ 05:11    6.9 3.48* 10.6* 32.6* 94 30.5 32.5 14.2 
47.8* 326 
RENAL & GLUCOSE Glucose UreaN Creat Na K Cl HCO3 AnGap 
___ 05:11    911 26* 1.4* 1452 4.23 ___ 
ENZYMES & BILIRUBIN ALT AST LD(___) CK(CPK) AlkPhos Amylase 
TotBili DirBili 
___ 05:11    83* 50*     175*   0.3  
 
C diff PCR stool ___ check was negative

ERCP on ___ 

 
Brief Hospital Course:
Ms. ___ is a ___ female with
history of hemorrhagic CVA (___) s/p frontal craniotomy with
residual left-sided paralysis and dysphagia, ongoing use of
apixaban 2.5 mg BID for ONLY the purpose of DVT prophylaxis at
home, HTN, CKD stage 3, ___ cholangitis s/p percutaneous
cholecystostomy tube who was admitted for pre-planned ERCP.

___ recent cholangitis s/p percutaneous cholecystostomy tube 

#Biliary stent removal (had ___ ERCP that had stent 
placement)
-Had planned ___ ERCP for stent pull, cholangiogram,
sphincterotomy, removal of sludge, though did have mild ooze s/p 
epi
with hemostasis.  Patient post procedure was hemodynamically 
stable,
comfortable-appearing, not in pain on day of discharge.
- Patient tolerated TF post procedure.
- She can resume her DVT prophylactic indicated apixaban at home 
in 3 days from discharge.
- No antibiotics needed per ERCP
- Surgery team evaluated her on cholecystectomy timing. It is 
acceptable to perform it while outpatient, or as inpatient but 
the earliest would be possibly ___. The husband preferred to 
take her home to see Dr. ___ in the clinic for a definite 
procedure time instead.
- The percutaneous cholecystostomy tube must remain in place
until the future cholecystectomy.

#Recent ___ ICU stay requiring intubation and failure to wean
resulting in a percutaneous tracheostomy
Placed during last hospitalization. 
She will need follow up with thoracic surgery regarding 
tracheostomy follow up.

#History of hemorrhagic CVA with residual left hemiparesis and
s/p PEG tube 
-No change to her home TF regimen on discharge.
-Continue home Keppra

#HTN - continued home labetalol, amlodipine

#CKD stage 3
-Stable BUN/Cr trend while in the hospital.

Greater than 30 minutes was spent on discharge planning and 
coordination.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lansoprazole Oral Disintegrating Tab 30 mg PO DAILY 
2. LOPERamide 2 mg PO QID:PRN diarrhea 
3. amLODIPine 2.5 mg PO DAILY 
4. Labetalol 400 mg PO TID 
5. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 
6. LevETIRAcetam 500 mg PO BID 
7. polyvinyl alcohol 1.4 % ophthalmic (eye) QID:PRN 
8. Apixaban 2.5 mg PO BID 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
2.  amLODIPine 2.5 mg PO DAILY  
3.  Labetalol 400 mg PO TID  
4.  Lansoprazole Oral Disintegrating Tab 30 mg PO DAILY  
5.  LevETIRAcetam 500 mg PO BID  
6.  LOPERamide 2 mg PO QID:PRN diarrhea  
7.  polyvinyl alcohol 1.4 % ophthalmic (eye) QID:PRN  
8. HELD- Apixaban 2.5 mg PO BID  This medication was held. Do 
not restart Apixaban until ___

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Biliary obstruction

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Bedbound.

 
Discharge Instructions:
Instructions: Dear Ms. ___, 

It was a pleasure to be a part of your care team at ___ 
___.

====================================
Why did you come to the hospital? 
====================================

-You had a planned ERCP procedure on ___.

====================================
What happened at the hospital? 
====================================

-This procedure was successful in opening up your bile ducts 
further (called sphincterotomy) to reduce the risk of blockages. 
It also removed a temporary stent placed there in ___ 
from the last ERCP you had.
-Your gallbladder drain, the cholecystostomy tube, must remain 
in place until you have a cholecystectomy procedure (surgery to 
remove the entire gallbladder) in the future.
-The surgery team saw you to evaluate when you can have the 
gallbladder removed. It was determined that it is okay for you 
to return home today and have this operation scheduled in the 
clinic with Dr. ___ the near future.

==================================================
What needs to happen when you leave the hospital? 
==================================================

-You must call Dr. ___ if you do not hear from 
anyone in their office by 12:00PM on ___, to schedule an 
appointment to be seen within 1 week for the operation planning.

-There were no changes to your medications that you came into 
the hospital with. HOWEVER, you must not take any apixaban UNTIL 
3 more days from now (___).

-There is no new medication you need to take on discharge today.
-Your tube feed directions are unchanged on discharge today.
-Please notify our staff if you are running low on any dressing 
supplies before you leave today.

-If there are any questions about the ERCP procedure you had, 
then at any time call ___ and ask the operator to page 
the ERCP fellow on call (the pager number is ___ for ANY 
procedure-related questions or problems. Specific signs to watch 
for are abdominal pain or tenderness, new vomiting or nausea, 
jaundice (yellow skin or eyes), black stools or red blood in 
stool, or fever.

It was a pleasure taking care of you during your stay! 

Sincerely, 

Your ___ team  

 
Followup Instructions:
___